US06365736B1
N) 3-[2-Methyl-3-keto-1,4-benzoxazin-6-yl]-acrylamide
726 mg of 6-bromo-2-methyl-1,4-benzoxazin-3-(4H)-one is stirred in 1.5 ml of triethylamine with 0.267 g of acrylamide as well as 8 mg of palladium(II) acetate and 46 mg of tri-ortho-toluyl-phosphine for several hours at 100° C. The product is taken up in methanol and purified by column chromatography with an ethanol/ethyl acetate mixture. Yield 36%.

reactant | 6-bromo-2-methyl-1,4-benzoxazin-3-(4H)-one | 726 mg | BrC=1C=CC2=C(NC(C(O2)C)=O)C1 | C9H8BrNO2
reactant | acrylamide | 0.267 g | C(C=C)(=O)N | C3H5NO
reactant | tri-ortho-toluyl-phosphine | 46 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
catalyst | palladium(II) acetate | 8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[2-Methyl-3-keto-1,4-benzoxazin-6-yl]-acrylamide | Yield 36% | CC1OC2=C(NC1=O)C=C(C=C2)C=CC(=O)N | C12H12N2O3
